US09359340B2
4.0M hydrogen chloride in 1,4-dioxane (2.508 mL) was added to a solution of tert-butyl (S)-2-(5-chlorothiophen-2-yl)-3-(4-((5R,7R)-6,7-dihydro-7-hydroxy-5-methyl-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropylisopropylcarbamate (283 mg, 0.502 mmol) in 1,4-dioxane (2.5 mL) and methylene chloride (2.5 mL) at 0° C. The mixture was allowed to warm up to room temperature and stirred for 1 hour. The mixture was concentrated in vacuo. The residue was then dissolved in a minimum volume of DCM (1 mL) and added dropwise to ether (10 mL) at 0° C. with stirring. A white solid precipitated. The solvents were evaporated with a rotovap in a 25° C. bath. The off-white solid was dried under high vacuum overnight to give (S)-2-(5-chlorothiophen-2-yl)-1-(4-((5R,7R)-6,7-dihydro-7-hydroxy-5-methyl-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one dihydrochloride (537 mg, 99.9%). MS (APCI+) [M+H] +464.1. 1H NMR (D20, 400 MHz) δ 8.53 (s, 1H), 6.97 (d, J=4.0 Hz, 1H), 6.96 (d, J=4.0 Hz, 1H), 5.40 (t, J=8.0 Hz, 1H), 4.78-4.71 (m, 1H), 4.31-4.27 (m, 1H), 4.09-3.97 (m, 2H), 3.84-3.42 (m, 10H), 2.36-2.30 (m, 1H), 2.21-2.13 (M, 1H), 1.33 (d, J=6.4 Hz, 3H), 1.32 (d, J=6.4 Hz, 3H), 1.14 (d, J=6.4 Hz, 3H).

reactant | hydrogen chloride | 4.0M | Cl | ClH
reactant | tert-butyl (S)-2-(5-chlorothiophen-2-yl)-3-(4-((5R,7R)-6,7-dihydro-7-hydroxy-5-methyl-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropylisopropylcarbamate | 0.502 mmol, 283 mg | ClC1=CC=C(S1)[C@@H](CN(C(OC(C)(C)C)=O)C(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)O | C27H38ClN5O4S
solvent | 1,4-dioxane | 2.508 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(5-chlorothiophen-2-yl)-1-(4-((5R,7R)-6,7-dihydro-7-hydroxy-5-methyl-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one dihydrochloride | 537 mg, 99.9% | Cl.Cl.ClC1=CC=C(S1)[C@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)O)CNC(C)C | InChI=1S/C22H30ClN5O2S.2ClH/c1-13(2)24-11-15(17-4-5-18(23)31-17)22(30)28-8-6-27(7-9-28)21-19-14(3)10-16(29)20(19)25-12-26-21;;/h4-5,12-16,24,29H,6-11H2,1-3H3;2*1H/t14-,15-,16-;;/m1../s1
